US03996380
To a solution of 3.00 g. (13.5 mmoles) of tetradecanoic acid in 40 ml. of dry ether at 0° is added 1.42 ml. (19.74 mmoles) of thionyl chloride and 0.2 ml (2.63 mmoles) of dimethylformamide. The solution is allowed to warm to room temperature and then is stirred for 21/2 hours. The solvent is removed from the top layer of the now biphasic mixture by evaporation and the residue is taken up in 30 ml. of ether. To this solution at 0° under nitrogen is added 1.15 ml. (19.75 mmoles) of propargyl alcohol and 2.1 ml. (2.0 mmoles) of pyridine. The reaction mixture is allowed to warm to room temperature and stirred for one day, ether and water are then added, the organic phase separated, the aqueous phase extracted with ether, and the combined organic phases washed with 3N sulfuric acid, 10% aqueous sodium carbonate, water, saturated aqueous copper sulfate, water and brine. The reaction mixture is dried over calcium sulfate and concentrated to yield propargyl tetradecanoate, boiling at 125° at 0.25 mm.

reactant | tetradecanoic acid | 13.5 mmoles | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | thionyl chloride | 19.74 mmoles | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | 2.63 mmoles, 0.2 ml | CN(C=O)C | C3H7NO
reactant | propargyl alcohol | 19.75 mmoles | C(C#C)O | C3H4O
reactant | pyridine | 2.0 mmoles | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | propargyl tetradecanoate | C(CCCCCCCCCCCCC)(=O)OCC#C | C17H30O2
